US08461107B2
Step 3: (25)-Cyclopentyl[({[(1R,2R)-2-pent-4-en-1-ylcyclopentyl]oxy}carbonyl)amino]acetic acid
A mixture of methyl (2S)-cyclopentyl[({[(1R,2R)-2-pent-4-en-1-ylcyclopentyl]oxy}carbonyl)amino]acetate (1.97 g, 5.84 mmol) and LiOH.H2O (0.74 g, 17.51 mmol) in a 1:1 mixture of THF:H2O (60 mL) was heated to 40° C. The solution was stirred for 4 hours, then cooled to 20° C. The THF was removed under reduced pressure, and the residual aqueous solution was extracted with EtOAc. The organic phase was washed with H2O and brine, then dried over Na2SO4. Filtration and removal of the volatiles afforded the title compound (1.85 g, 98%) as an oil that was used directly in subsequent steps. 1H NMR (400 MHz, DMSO-d6) δ 12.25 (br s, 1H), 7.28 (d, J=8.1 Hz, 1H), 5.84-5.71 (m, 1H), 4.98 (d, J=17.4 Hz, 1H), 4.92 (d, J=10.1 Hz, 1H), 4.60-4.52 (m, 1H), 3.78 (t, J=8.0 Hz, 1H), 2.18-2.05 (m, 1H), 2.04-1.94 (m, 3H), 1.91-1.74 (m, 3H), 1.70-1.06 (m, 15H).

reactant | methyl (2S)-cyclopentyl[({[(1R,2R)-2-pent-4-en-1-ylcyclopentyl]oxy}carbonyl)amino]acetate | 5.84 mmol, 1.97 g | C1(CCCC1)[C@@H](C(=O)OC)NC(=O)O[C@H]1[C@@H](CCC1)CCCC=C | C19H31NO4
reactant | LiOH.H2O | 17.51 mmol, 0.74 g | O[Li].O
reactant | THF | C1CCOC1 | C4H8O
solvent | H2O | 60 mL | O | H2O
product | (25)-Cyclopentyl[({[(1R,2R)-2-pent-4-en-1-ylcyclopentyl]oxy}carbonyl)amino]acetic acid | 1.85 g, 98% | C1(CCCC1)[C@@H](C(=O)O)NC(=O)O[C@H]1[C@@H](CCC1)CCCC=C | C18H29NO4
